US05317016
To a solution of (2S,4R)-1-p-methoxybenzyloxycarbonyl-4-methanesulfonyloxypyrrolidine-2-carboxylic acid methyl ester (79.4 g: 205 mmole) in a mixture of tetrahydrofuran (200 ml) and ethanol (300 ml), sodium borohydride (14 g) is added in several portions under ice cooling. The mixture is stirred at room temperature for 4 hours. The reaction mixture is neutralized with conc. sulfuric acid, concentrated in vacuo to approximately a half volume, diluted with water, and extracted with ethyl acetate. The extract is successively washed with aqueous sodium hydrogen carbonate, water and brine, dried over magnesium sulfate, and concentrated in vacuo. The residue is purified by silica gel column chromatography (toluene:ethyl acetate=1:2) to give (2S,4R)-1-p-methoxybenzyloxycarbonyl-4-methanesulfonyloxypyrrolidine-2-methanol (58.7 g). Yield: 81.7%. NMR δ(CDCl3) ppm: 1.8 to 2.2(m, 1H), 2.3 to 2.5(m, 1H), 3.01(s, 3H), 3.57 (d, J=4.4 Hz, 1H), 3.64(d, J=4.4 Hz, 1H), 3.81(s, 3H), 3.82 to 4.3(m,3H), 5.09(s, 2H), 5.21(br s, 1H), 6.89(d, J=8.8 Hz, 2H), 7.31(d, J=8.8 Hz,2H).

reactant | (2S,4R)-1-p-methoxybenzyloxycarbonyl-4-methanesulfonyloxypyrrolidine-2-carboxylic acid methyl ester | 205 mmole, 79.4 g | COC(=O)[C@H]1N(C[C@@H](C1)OS(=O)(=O)C)C(=O)OCC1=CC=C(C=C1)OC | C16H21NO8S
reactant | sodium borohydride | 14 g | [BH4-].[Na+]
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | (2S,4R)-1-p-methoxybenzyloxycarbonyl-4-methanesulfonyloxypyrrolidine-2-methanol | 58.7 g, Yield: 81.7% | COC1=CC=C(COC(=O)N2[C@@H](C[C@H](C2)OS(=O)(=O)C)CO)C=C1 | C15H21NO7S
